US07608639B2
3-[4-(5-Methoxy-2-methyl-phenoxy)-2-methyl-phenyl]-propionic acid ethyl ester
A solution of 3-[4-(5-methoxy-2-methyl-phenoxy)-2-methyl-phenyl]-acrylic acid ethyl ester (1.18 g, 3.63 mmol) and palladium under carbon (10%) (0.39 g, 0.36 mmol) in ethanol (20 mL) and acetic acid (2 mL) is stirred under 1 atm of hydrogen. After stirring overnight, the mixture is filtered off through Celite and washed with methanol. The mixture is concentrated under reduced pressure and purified by flash chromatography by eluting with hexane:ethyl acetate 5:1 to afford the title compound (1.02 g, 85%). Rf=0.42 (hexane:ethyl acetate 5:1). 1H NMR (300 MHz, CDCl3): δ1.26 (t, 3H, J=6.9 Hz), 2.16 (s, 3H), 2.28 (s, 3H), 2.56 (t, 2H, J=7.3 Hz), 2.90 (t, 2H, J=7.3 Hz), 3.72 (s, 3H), 4.17 (q, 2H, J=6.9 Hz), 6.45 (d, 1H, J=2.4 Hz), 6.62 (dd, 1H, J=2.8, 8.5 Hz), 6.67 (dd, 1H, J=2.4, 8.1 Hz), 6.74 (d, 1H, J=2.4 Hz), 7.06 (d, 1H, J=8.1 Hz), 7.13 (d, 1H, J=8.1 Hz).

reactant | 3-[4-(5-methoxy-2-methyl-phenoxy)-2-methyl-phenyl]-acrylic acid ethyl ester | 3.63 mmol, 1.18 g | C(C)OC(C=CC1=C(C=C(C=C1)OC1=C(C=CC(=C1)OC)C)C)=O | C20H22O4
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 3-[4-(5-Methoxy-2-methyl-phenoxy)-2-methyl-phenyl]-propionic acid ethyl ester | 1.02 g, 85% | C(C)OC(CCC1=C(C=C(C=C1)OC1=C(C=CC(=C1)OC)C)C)=O | C20H24O4
